US08871756B2
N-[(3-Aminooxetan-3-yl)methyl]-6-chloro-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine
The title compound was prepared in analogy to Example 57-1 in Scheme 23 by using 2,4,6-trichloroquinazoline, 3-(aminomethyl)oxetan-3-amine and 2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide. MS obsd. (ESI+) [(M+H)+] 444, 1H NMR (400 MHz, CD3OD) δ ppm 8.57 (s, 1 H), 8.01-7.73 (m, 2 H), 7.52-7.40 (m, 4 H), 5.31-5.28 (d, J=15.2 Hz, 1 H), 4.66-4.53 (m, 6 H), 4.08 (s, 2 H), 3.51-3.50 (m, 2 H), 1.36-1.31 (m, 1 H).

reactant | 2,4,6-trichloroquinazoline | ClC1=NC2=CC=C(C=C2C(=N1)Cl)Cl | C8H3Cl3N2
reactant | 3-(aminomethyl)oxetan-3-amine | NCC1(COC1)N | C4H10N2O
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide | S1(CCNCC2=C1C=CC=C2)=O | C9H11NOS
product | N-[(3-Aminooxetan-3-yl)methyl]-6-chloro-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine | NC1(COC1)CNC1=NC(=NC2=CC=C(C=C12)Cl)N1CCS(C2=C(C1)C=CC=C2)=O | C21H22ClN5O2S
